US09102688B2
General Procedure X: 4-chloroquinoline (Intermediate 462)
POCl3 (50 ml) was added to quinolin-4-ol (5.0 g, 34.9 mmol) and the mixture was heated at 90° C. for 0.5 h. After cooling, the mixture was concentrated in vacuo. The residue was quenched with cold sat. NaHCO3 solution under cooling and the resulting aqueous phase was extracted with chloroform. The combined organic phases were washed with water, dried (Na2SO4) and concentrated in vacuo to give the title compound (5.0 g, 89%) which was used in the next step without further purification.

reactant | quinolin-4-ol | 34.9 mmol, 5.0 g | N1=CC=C(C2=CC=CC=C12)O | C9H7NO
reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloroquinoline | 5.0 g, 89% | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
